US07678749B2
Preparation of 2-methylene octanal (X)
A 5-liter flask fitted with an overhead stirrer and condenser was charged with di-N-butyl amine (61 g, 0.47 mol) and acetic acid (56 g, 0.9 mol). Roughly 900 ml of 37% formaldehyde solution in water (351 g formaldehyde, 11.7 mol) was then added and the resulting solution was heated to 50° C. with stirring. After this temperature was reached octanal (1000 g, 7.0 mol) was fed in over about 2 h. A slight exotherm was noticed during the feed. Monitoring by GC showed the consumption of octanal and the production of 2-methylene octanal, finally reaching roughly 95% conversion after the addition was complete. The reaction mixture was allowed to cool to room temperature, poured into a separatory funnel, and washed once with 5% HCl solution. The organic layer was then washed once with saturated sodium bicarbonate, then taken directly on to the next step.

reactant | acetic acid | 0.9 mol, 56 g | C(C)(=O)O | C2H4O2
reactant | water | 11.7 mol, 351 g | O | H2O
reactant | octanal | 7.0 mol, 1000 g | C(CCCCCCC)=O | C8H16O
solvent | formaldehyde | 900 ml | C=O | CH2O
product | 2-methylene octanal | C=C(C=O)CCCCCC | C9H16O
